US07399774B2
2-Hydroxymethyl-indan-5-ol
Combine (5-Methoxy-indan-2-yl)-methanol (117.0 mg, 0.65 mmol), and 48% HBr(aq). After the reaction refluxes for 30 minutes, cool to room temperature and extract the product with ethyl acetate. Wash with brine and dry over Na2SO4. After concentrating the organic layer under reduced pressure, flash chromatograph using 2/1 Hexanes/Ethyl acetate eluent to afford 67.3 mg, 0.41 mmol (63% yield) of the title compound: 1H NMR (500 MHz, CDCl3); 2.6-2.8 (3H, m), 2.9-3.1 (2H, m), 3.6-3.8 (2H, m), 6.6-6.8 (2H, m), 7.0-7.1 (1H, m); TLC 1:1 Hexanes:Ethyl acetate Rf:=0.3.

reactant | (5-Methoxy-indan-2-yl)-methanol | 0.65 mmol, 117.0 mg | COC=1C=C2CC(CC2=CC1)CO | C11H14O2
reactant | HBr | Br | BrH
product | 2-Hydroxymethyl-indan-5-ol | 0.41 mmol, 67.3 mg, 63% yield | OCC1CC2=CC=C(C=C2C1)O | C10H12O2
